US06703392B2
2-[1-(2,5-Dimethoxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-2-yl)-acetamide:
prepared by reaction of 1-(2,5-Dimethoxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-amino-indane

reactant | 1-(2,5-Dimethoxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC1=C(CC2NCCC3=C(C=CC(=C23)OC)OC)C=C(C=C1)OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-amino-indane | NC1CC2=CC=CC=C2C1 | C9H11N
product | 2-[1-(2,5-Dimethoxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-2-yl)-acetamide | COC1=C(CC2N(CCC3=C(C=CC(=C23)OC)OC)CC(=O)NC2CC3=CC=CC=C3C2)C=C(C=C1)OC | C31H36N2O5
